US04088771
A mixture consisting of 35 ml of acetonitrile; 10 ml of water; 16.8 g of benzaldehyde; 16 g of ethylamine hydrochloride and 10 g of sodium cyanide is stirred at room temperature for 2 days. It is then diluted with more water and extracted with benzene. The benzene extract is washed several times in the water and then dried over potassium carbonate. The solution is filtered and the filtrate is concentrated under reduced pressure to leave crude 2-ethylamino-2-phenylacetonitrile. This material is reduced with 11.5 g of lithium aluminum hydride in ether, following the procedure and workup already described. There is 10.7 g of β-ethylamino-2-phenylethylamine, dihydrochloride, m.p. 226°-229° C.

reactant | acetonitrile | 35 ml | C(C)#N | C2H3N
reactant | benzaldehyde | 16.8 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | ethylamine hydrochloride | 16 g | Cl.C(C)N
reactant | sodium cyanide | 10 g | [C-]#N.[Na+]
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
product | 2-ethylamino-2-phenylacetonitrile | C(C)NC(C#N)C1=CC=CC=C1 | C10H12N2
